US08633313B2
To a solution of 3-(2-(methylsulfonyl)phenyl)-3-oxopropanenitrile (4.5 g, 20.25 mmol) in methanol (100 mL) was added trimethyl silyl chloride (11 mL, 100.58 mmol) at 25° C. The reaction mixture was stirred for overnight at 70° C. Water was added to the reaction mixture at 25° C. and extracted with EtOAc. The reaction mixture was concentrated in vacuo and purified by column chromatography on silica gel using 0-30% EtOAc in hexane to give methyl 3-(2-(methylsulfonyl)phenyl)-3-oxopropanoate: 1H NMR (400 MHz, DMSO-d6): δ 3.294 (S, 3H), 3.645 (s, 3H), 4.12 (s, 2H), 7.762-7.874 (m, 3H), 7.979-7.984 (m, 1H); LC-MS (ESI) m/z 256.9 [M+H]+.

reactant | 3-(2-(methylsulfonyl)phenyl)-3-oxopropanenitrile | 20.25 mmol, 4.5 g | CS(=O)(=O)C1=C(C=CC=C1)C(CC#N)=O | C10H9NO3S
reactant | trimethyl silyl chloride | 100.58 mmol, 11 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | Water | O | H2O
reactant | methanol | 100 mL | CO | CH4O
product | methyl 3-(2-(methylsulfonyl)phenyl)-3-oxopropanoate | CS(=O)(=O)C1=C(C=CC=C1)C(CC(=O)OC)=O | C11H12O5S
